US09034899B2
A mixture of 4-(4-chlorophenyl)-6-fluoro-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate (695 mg, 1.64 mmol) which was prepared using similar methods described in Step A to Step E of Example 26 starting from 2-bromo-1-(4-chlorophenyl)ethanone, 4-carbamoylphenylboronic acid (406 mg, 2.46 mmol) and cesium carbonate (1.6 mg, 4.92 mmol) in water (5 mL) and N,N-dimethylformamide (20 mL) was degassed with argon and then [1,1′-bis(diphenylphosphino)ferrocene]palladium(II) (59 mg, 0.08 mmol) was added. The mixture was degassed again and then heated to 90° C. for 2 hours. The mixture was partitioned between water and ethyl acetate (3×) and the combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by preparative HPLC followed by preparative thin-layer chromatography (90:10:1 diethyl ether/methanol/concentrated ammonium hydroxide) to give 4-(4-(4-chlorophenyl)-6-fluoro-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl)benzamide (204 mg, 32%) as an off-white solid: ESI MS m/z 395 [M+H]+.

reactant | 4-(4-chlorophenyl)-6-fluoro-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate | 1.64 mmol, 695 mg | FC(S(=O)(=O)OC1=C(C=C2C(CN(CC2=C1)C)C1=CC=C(C=C1)Cl)F)(F)F | C17H14ClF4NO3S
reactant | 2-bromo-1-(4-chlorophenyl)ethanone | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | 4-carbamoylphenylboronic acid | 2.46 mmol, 406 mg | C(N)(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
reactant | cesium carbonate | 4.92 mmol, 1.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 5 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(4-(4-chlorophenyl)-6-fluoro-2-methyl-1,2,3,4-tetrahydroisoquinolin-7-yl)benzamide | 204 mg, 32% | ClC1=CC=C(C=C1)C1CN(CC2=CC(=C(C=C12)F)C1=CC=C(C(=O)N)C=C1)C | C23H20ClFN2O
